US04207320
3,10-Difluoroimidazo[1,2-a:3,4-a']diquinolin-15-ium Iodide.
A mixture of 16.1 g. of 6-fluoroquinaldine, 58.9 g. of 6-fluoroquinoline, 70 ml. of chlorobenzene and 50.8 g. of iodine is stirred at 20°-25° C. for 1 hour, then heated at 95°-100° C. for 4 days. The precipitate is collected and suspended in 300 ml. of methanol. The methanol suspension is treated with 17 ml. of 85% hydrazine hydrate and the resulting solid 3,10-difluoroimidazo[1,2-a:3,4-a']diquinolin-15-ium iodide is collected by filtration; m.p. >360° C., after crystallization from methanol.

reactant | 6-fluoroquinaldine | FC=1C=C2C=CC(=NC2=CC1)C | C10H8FN
reactant | 6-fluoroquinoline | FC=1C=C2C=CC=NC2=CC1 | C9H6FN
reactant | iodine | II | I2
solvent | chlorobenzene | ClC1=CC=CC=C1 | C6H5Cl
product | 3,10-Difluoroimidazo[1,2-a:3,4-a']diquinolin-15-ium Iodide | [I-].FC1=CC=2C=CC3=[N+](C2C=C1)C=C1N3C=3C=CC(=CC3C=C1)F | InChI=1S/C19H11F2N2.HI/c20-14-3-6-17-12(9-14)2-8-19-22(17)11-16-5-1-13-10-15(21)4-7-18(13)23(16)19;/h1-11H;1H/q+1;/p-1
